US05998605
5,6-Dichloro-2-(isopropylamino)-1H-benzimidazole
5,6-Dichloro-1,2-phenylenediamine (0.61 g, 3.4 mmol), and isopropyl isothiocyanate (0.39 g, 3.8 mmo) were combined in anhydrous pyridine (10 mL) and were heated to 80° C. for 15 min. Dicyclohexylcarbodiimide (1.06 g, 5.14 mmol) was then added and the resulting mixture was allowed to stir at 100° C. for 5 h. Toluene (30 mL) was added and the mixture was concentrated by rotary evaporation leaving a brown residue. The product was flilrer purified by silica gel chromatography using 6.5:3:0.5 ethyl acetatelhexane/triethylamine to afford a gummy solid which was recrystallised from acetonitrile to give 0.46 g (60%) of a tan solid; m.p. 218-220° C. Anal. Calcd for C10H11Cl2N3 : C, 49.20; H, 4.54; N, 17.21. Found: C. 49.31; H, 4.59; N, 17.33.

reactant | 5,6-Dichloro-1,2-phenylenediamine | 3.4 mmol, 0.61 g | ClC=1C=CC(=C(C1Cl)N)N | C6H6Cl2N2
reactant | isopropyl isothiocyanate | 0.39 g | C(C)(C)N=C=S | C4H7NS
reactant | Dicyclohexylcarbodiimide | 5.14 mmol, 1.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 5,6-Dichloro-2-(isopropylamino)-1H-benzimidazole | 0.46 g, 60% | ClC1=CC2=C(NC(=N2)NC(C)C)C=C1Cl | C10H11Cl2N3
